US06451810B1
A catalytic amount of platinum on carbon was added to a suspension of N1-{5-[(3-nitroquinolin-4-yl)amino]pentyl}benzamide (3.4 g, 9 mmol) in isopropyl alcohol (250 mL). The reaction mixture was placed under a hydrogen atmosphere at 50 psi (3.4×104 pascals) on a Parr apparatus. After 2 hours the reaction mixture was filtered to remove the catalyst. The filtrate was concentrated under vacuum to provide crude N1-{5-[(3-aminoquinolin-4-yl)amino]pentyl}benzamide. This material was combined with triethylorthoacetate (1.4 g, 9 mmol) and toluene (200 mL). The reaction mixture was heated overnight on a steam bath with a Vigreux column. The toluene was decanted from the reaction mixture and concentrated under vacuum to provide N1-[5-(2-methyl-1H-imidazo[4,5-c]quinolin-1-yl)pentyl]benzamide as an oil.

reactant | N1-{5-[(3-nitroquinolin-4-yl)amino]pentyl}benzamide | 9 mmol, 3.4 g | [N+](=O)([O-])C=1C=NC2=CC=CC=C2C1NCCCCCNC(C1=CC=CC=C1)=O | C21H22N4O3
reactant | triethylorthoacetate | 9 mmol, 1.4 g | C(C)C(C([O-])([O-])[O-])(CC)CC
reactant | toluene | 200 mL | C1(=CC=CC=C1)C | C7H8
catalyst | platinum on carbon | [Pt] | Pt
solvent | isopropyl alcohol | 250 mL | C(C)(C)O | C3H8O
product | N1-[5-(2-methyl-1H-imidazo[4,5-c]quinolin-1-yl)pentyl]benzamide | CC=1N(C2=C(C=NC=3C=CC=CC23)N1)CCCCCNC(C1=CC=CC=C1)=O | C23H24N4O
